US08134007B2
[2-Fluoro-5-(trifluoromethoxy)phenyl]boronic acid
To a solution of the 4-fluoro(trifluoromethoxy)benzene (2.0 g, 11.1 mmol) in dry THF (30 ml) at −78° C., was added ethylenediaminetetraacetic acid (EDTA, 1.36 g, 11.7 mmol) followed by a 1.4 M solution of sec-butyllithium in cyclohexane (8.33 ml, 11.7 mmol) and the reaction stirred for 2 hours under nitrogen. To this reaction mixture at −78° C., was then added dropwise the preformed dimethoxyfluoroborane mixture. The reaction was stirred at −78° C. for 30 minutes, warmed to room temperature for 30 minutes, and then quenched with water (10 ml). The volume of the reaction mixture was reduced in vacuo, then the residue dissolved in diethyl ether (10 ml) and washed with an aqueous solution of 10% NaOH (50 ml). The aqueous layer was acidified and extracted with ethyl acetate (3×40 ml). The combined ethyl acetate extracts were dried over MgSO4 and concentrated in vacuo to afford the title compound as a single regioisomer (1.51 g).

reactant | 4-fluoro(trifluoromethoxy)benzene | 11.1 mmol, 2.0 g | FC1=CC=C(C=C1)OC(F)(F)F | C7H4F4O
reactant | ethylenediaminetetraacetic acid | 11.7 mmol, 1.36 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 11.7 mmol, 8.33 ml | C1CCCCC1 | C6H12
reactant | dimethoxyfluoroborane | COB(F)OC | C2H6BFO2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | [2-Fluoro-5-(trifluoromethoxy)phenyl]boronic acid | FC1=C(C=C(C=C1)OC(F)(F)F)B(O)O | C7H5BF4O3
